US08871782B2
The preparation of 7-benzyloxy-N4-(2-methylpropyl)quinoline-3,4-diamine is described in Parts A-F of Example 1. Under a nitrogen atmosphere, triethyl orthoacetate (4.59 mL, 25.0 mmol) was added to a solution of 7-benzyloxy-N-(2-methylpropyl)quinoline-3,4-diamine (8.05 g, 25.0 mmol) in xylenes (130 mL), and the resulting solution was heated at reflux (160° C.) overnight. The solvent volume was reduced to 70 mL using a Dean-Stark trap. Over a period of a few days, a precipitate formed. Diethyl ether was added, and the precipitate was isolated by filtration and washed with diethyl ether to provide 6.81 g of 7-benzyloxy-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline as a light-brown powder.

reactant | 7-benzyloxy-N4-(2-methylpropyl)quinoline-3,4-diamine | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)N)NCC(C)C | C20H23N3O
reactant | triethyl orthoacetate | 25.0 mmol, 4.59 mL | C(C)(OCC)(OCC)OCC | C8H18O3
reactant | 7-benzyloxy-N-(2-methylpropyl)quinoline-3,4-diamine | 25.0 mmol, 8.05 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(C=NC2=C1)NCC(C)C)N | C20H23N3O
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 7-benzyloxy-2-methyl-1-(2-methylpropyl)-1H-imidazo[4,5-c]quinoline | 6.81 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)C)C | C22H23N3O
